US05348965
A mixture of crude 10-(2-(2-((tetrahydro-2-pyranyl)oxy)ethoxy)ethyl)-10H-phenothiazine (3.8 g, 10 mmol), 2-propanol (50 ml) and a 4 M aqueous sulfuric acid solution (8 ml) was heated at 60° C. for 3 h and then left overnight at room temperature. The reaction mixture was poured into a mixture of water (500 ml) and a 4 N sodium hydroxide solution (17 ml). The mixture was extracted with diethyl ether (150 ml) and the organic extract was washed with brine and dried over sodium sulphate. The solvent was evaporated in vacuo to give 1.5 g of crude 2-(2-(10H-phenothiazin-10-yl)ethoxy)ethanol. TLC: rf=0.52 (SiO2 ; dichloromethane/methanol=19:1).

reactant | 10-(2-(2-((tetrahydro-2-pyranyl)oxy)ethoxy)ethyl)-10H-phenothiazine | 10 mmol, 3.8 g | O1C(CCCC1)OCCOCCN1C2=CC=CC=C2SC=2C=CC=CC12 | C21H25NO3S
reactant | 2-propanol | 50 ml | CC(C)O | C3H8O
reactant | sulfuric acid | 4 M, 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4 N, 17 ml | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-(2-(10H-phenothiazin-10-yl)ethoxy)ethanol | 1.5 g | C1=CC=CC=2SC3=CC=CC=C3N(C12)CCOCCO | C16H17NO2S
